US05885997
4-[2-[2-Ethyl-4-oxo-3,4-dihydro-3-quinazolinyl]ethoxy]nitrobenzene
The title compound (1.246 g, 64%) was prepared from 2-ethyl-4-oxo-3,4-dihydroquinazoline (1.0 g, 5.7 mmol) and 4-[2-bromoethoxy]nitrobenzene (1.696 g, 6.8 mmol) and K2CO3 (1.58 g, mmol) as a base by a similar procedure to that described in preparation 1.

reactant | 2-ethyl-4-oxo-3,4-dihydroquinazoline | 5.7 mmol, 1.0 g | C(C)C1=NC2=CC=CC=C2C(N1)=O | C10H10N2O
reactant | 4-[2-bromoethoxy]nitrobenzene | 6.8 mmol, 1.696 g | BrCCOC1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO3
reactant | K2CO3 | 1.58 g | C(=O)([O-])[O-].[K+].[K+]
product | 4-[2-[2-Ethyl-4-oxo-3,4-dihydro-3-quinazolinyl]ethoxy]nitrobenzene | 1.246 g, 64% | C(C)C1=NC2=CC=CC=C2C(N1CCOC1=CC=C(C=C1)[N+](=O)[O-])=O | C18H17N3O4
